US06020303
Synthesis of Sodium 7-methylheptadecyl Sulfate
Into a dried 1 L 3 neck round bottom flask fitted with a nitrogen inlet, dropping funnel, thermometer, mechanical stirring and nitrogen outlet is added chloroform (300 ml) and 7-Methylheptadecanol (102 g, 0.378 mol), prepared as an intermediate in Example III. Chlorosulfonic acid (46.7 g, 0.40 mol) is slowly added to the stirred mixture while maintaining 25-30° C. temperature with a ice bath. Once HCl evolution has stopped (1 hr.) slowly add sodium methoxide (25% in methanol) while keeping temperature at 25-30° C. until an aliquot at 5% concentration in water maintains a pH of 10.5. To the mixture is added hot methanol (45° C.,1 L) to dissolve the branched sulfate followed immediately by vacuum filtration to remove the inorganic salt precipitate and repeated a second time. The filtrate is then cooled to 5° C. at which time 1 L of ethyl ether is added and let stand for 1 hour. The precipitate is collected by vacuum filtration. The product is dried in a vacuum oven at 50° C. for 3 hrs. to obtain a white solid (89 g, 88% active by cat SO3 titration). HNMR of the final product (in deuterium oxide) indicates a CH2 --OSO3 -- triplet at the 3.8 ppm resonance, CH2 --CH2 --OSO3 -- multiplet at the 1.5 ppm resonance, CH2 of the alkyl chain at the 0.9-1.3 ppm resonance and CH--CH3 branch point overlapping the R--CH2CH3 terminal methyl group at the 0.8 ppm resonance. Mass spectrometry data shows a molecular ion peak with a mass of 349.1 corresponding to the 7-methylheptadecyl sulfate ion. Also shown is the methyl branch at the 7 position due to the loss of 29 mass units at that position.

reactant | 7-Methylheptadecanol | 0.378 mol, 102 g | CC(CCCCCCO)CCCCCCCCCC | C18H38O
reactant | Chlorosulfonic acid | 0.40 mol, 46.7 g | ClS(=O)(=O)O | ClHO3S
reactant | HCl | Cl | ClH
reactant | sodium methoxide | C[O-].[Na+]
solvent | chloroform | 300 ml | C(Cl)(Cl)Cl | CHCl3
product | Sodium 7-methylheptadecyl Sulfate | S(=O)(=O)(OCCCCCCC(CCCCCCCCCC)C)[O-].[Na+] | InChI=1S/C18H38O4S.Na/c1-3-4-5-6-7-8-9-12-15-18(2)16-13-10-11-14-17-22-23(19,20)21;/h18H,3-17H2,1-2H3,(H,19,20,21);/q;+1/p-1
